US05883102
(b) N-(2-Cyanophenyl)-2,2,2-trifluoro-N-methylacetamide
N-(2-Cyanophenyl)-2,2,2-trifluoroacetamide (3 g, 0.014 mol) was added to sodium hydride (60% in oil, 0.62 g, 0.026 mol) in THF (40 ml) under nitrogen and stirred for 4 h. Methyl iodide (8.7 ml, 0.14 mol) was added and stirring continued overnight. The mixture was poured onto brine and extracted with ethyl acetate, dried over sodium sulphate and evaporated to give the product (3 g), MS (+EI) 228 (M+). 1H NMR (CDCl3) 7.8 (1H, d), 7.7 (1H, dd), 7.4 (1H, dd), 7.4 (1H, d), 3.43 (3H, s).

reactant | N-(2-Cyanophenyl)-2,2,2-trifluoroacetamide | 0.014 mol, 3 g | C(#N)C1=C(C=CC=C1)NC(C(F)(F)F)=O | C9H5F3N2O
reactant | sodium hydride | 0.026 mol, 0.62 g | [H-].[Na+]
reactant | Methyl iodide | 0.14 mol, 8.7 ml | CI | CH3I
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-(2-Cyanophenyl)-2,2,2-trifluoro-N-methylacetamide | 3 g | C(#N)C1=C(C=CC=C1)N(C(C(F)(F)F)=O)C | C10H7F3N2O
